US09284263B1
A mixture of π-allylpalladium chloride dimer 0.4 mol % (20 mg, 53 μmol), 1.2 mol % (R,R)-DACH ligand (125 mg, 158 μmol, Na2CO3 (70 mg, 0.66 mmol) and phthalimide (1.94 g, 13.2 mmol) in 100 mL of dry CH2Cl2 was purged with nitrogen for 1 h. The resulting mixture was stirred for 10 min at room temperature to which butadiene monoepoxide (FIG. 2, No. 2) (920 mg, 13.2 mmol) was added. The resulting mixture was stirred at room temperature under nitrogen for 14 h, concentrated in vacuo and purified by silica gel column chromatography using ethyl acetate/hexane (3:7) as eluent furnished 2.8 g (98%) yield of (S)-2-(Isoindolin-2-yl) but-3-en-1-ol (FIG. 2, No. 3) as a crystalline white solid. [Rf=0.21, ethyl acetate/hexane (3:7)]; [α]D25 −72.2 (c 2.02, CH2Cl2) [Lit. −72.2 (c 2.02, CH2Cl2)]; IR (CH2Cl2) v: 3467, 1773, 1698, 1467, 1383 cm−1; 1H NMR (400 MHz, CDCl3) δ: 2.7 (bs, 1H), 3.9 (m, 1H), 4.1 (m, 1H), 4.9 (m, 1H), 5.2 (m, 2H), 6.1 (ddd, J=6.4 Hz, 1H), 7.7 (dd, J=3.2, 5.48 Hz, 2H), 7.8 (dd, J=2.76, 5.48 Hz, 2H); 13C NMR (100 MHz, CDCl3) δ: 55.9, 62.8, 118.8, 123.4, 131.7, 131.9, 134.2, 168.5. (Ref: Trost, B. M et al. J. Am. Chem. Soc. 2000, 122, 5968-597).

reactant | (R,R)-DACH | C1CC[C@H]([C@@H](C1)N)N | C6H14N2
reactant | Na2CO3 | 0.66 mmol, 70 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phthalimide | 13.2 mmol, 1.94 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(Isoindolin-2-yl) but-3-en-1-ol | C1N(CC2=CC=CC=C12)[C@H](CO)C=C | C12H15NO
